US05714496
A mixture of 4-iodobenzamidoxime (3.93 g) in triethylorthoformate (15 ml) was heated at reflux for 4 hours. The mixture was evaporated and the residue was purified by flash column chromatography on silica gel using 4:1 (v/v) n-pentane/ethyl acetate as eluent to give 3-(4-iodophenyl)-1,2,4-oxadiazole (0.74 g) as a solid; NMR(CDCl3): 7.85(4H,s) and 8.74(1H,s); m/z 272(M).

reactant | 4-iodobenzamidoxime | 3.93 g | IC1=CC=C(C(N)=NO)C=C1 | C7H7IN2O
reactant | triethylorthoformate | 15 ml | C(C)OC(OCC)OCC | C7H16O3
product | 3-(4-iodophenyl)-1,2,4-oxadiazole | 0.74 g | IC1=CC=C(C=C1)C1=NOC=N1 | C8H5IN2O
